US06130326
Diethyl 1-(2',3',5'-tri-O-benzoyl-β-L-ribofuranosyl)imidazole-4,5-dicarboxylate (47)
A mixture of diethyl imidazole-4,5-dicarboxylate (2.65 g, 12.50 mmol) and ammonium sulfate (50 mg) was heated at reflux at 135° C. for 6 h with hexamethyldisilazine (50 mL). The reaction mixture was evaporated to dryness and the residue was co-evaporated twice with dry toluene (2×50 mL) to remove last traces of hexamethyldisilazine. The solid that obtained was dried in vacuo for 6 h and used for the next step without further characterization. To a solution of the above residue (12.5 mmol) in 1,2-dichlorethane (60 mL) was added 1-O-acetyl-2,3,5-tri-O-benzoyl-L-ribofuranose (5.06 g, 10 mmol) and tin tetrachloride (1.68 mL, 14.16 mmol) at 10° C. The reaction mixture was stirred under the atmosphere of argon at room temperature for 6 h. The reaction was checked by TLC using hexane and ethyl acetate (7:3). TLC indicated no starting material remained. The reaction mixture was diluted with dichloromethane (200 mL). The organic layer was washed with cold sat. sodium bicarbonate (200 mL) and brine (100 mL), dried over sodium sulfate and concentrated to yield a white foam. The residue was dissolved in dichloromethane (100 mL) and filtered through celite to remove tin salts. After evaporation in vacuo the residue (4.70 g) was dissolved in ethanol and filtered again through celite. The titled compound 47 was crystallized from the filtrate as needles. Yield 4.70 g (72%): mp 134-136° C.; 1H NMR (CDCl3) δ 1.28 (t, 3H, CH3), 1.37 (t, 3H, CH3), 4.28-4.40 (m, 4H, 2 CH2), 4.65-4.88 (m, 3H, C4'H and C5'H), 5.85 (m, 2H, C2'H and C3,h), 6.68 (d, 1H, C H, J1',2' =3.90 Hz) and 7.26-8.08 (m, 16H, C2H and PhH).

reactant | diethyl imidazole-4,5-dicarboxylate | 12.50 mmol, 2.65 g | N1C=NC(=C1C(=O)OCC)C(=O)OCC | C9H12N2O4
reactant | ammonium sulfate | 50 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | hexamethyldisilazine | 50 mL | CC1(C(C(N=[SiH][SiH2]1)(C)C)(C)C)C | C9H21NSi2
reactant | 1-O-acetyl-2,3,5-tri-O-benzoyl-L-ribofuranose | 10 mmol, 5.06 g | C(C)(=O)OC1[C@@H](OC(C2=CC=CC=C2)=O)[C@@H](OC(C2=CC=CC=C2)=O)[C@@H](O1)COC(C1=CC=CC=C1)=O | C28H24O9
reactant | tin tetrachloride | 14.16 mmol, 1.68 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | 1,2-dichlorethane | 60 mL | ClCCCl | C2H4Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | Diethyl 1-(2',3',5'-tri-O-benzoyl-β-L-ribofuranosyl)imidazole-4,5-dicarboxylate | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C=NC(=C1C(=O)OCC)C(=O)OCC | C35H32N2O11
